US07244843B2
Step A. Preparation of [2-(2-hydroxy-benzoylamino)-ethyl]-carbamic acid tert-butyl ester
To a stirring solution of salicylic acid (2.0 g, 14.5 mmol) and t-butyl N-(2-aminoethyl)carbamate (2.32 g, 14.5 mmol) in dry THF (15 mL) was added a solution of 1,3-dicyclocarbodiimide (3.29 g, 16.0 mmol) in CH2Cl2 (5 mL) dropwise at 0° C. The reaction was stirred for 18 h and then filtered. The filtrate was conc in vacuo. The residue was dissolved in EtOAc (50 mL), washed with 5% NaHCO3, dried with MgSO4, and conc in vacuo to a white solid. The solid purified by silica gel chromatography (gradient: 0–70% EtOAc in hexanes) to yield 2.88 grams (71%) of the product as white solid.

reactant | salicylic acid | 14.5 mmol, 2.0 g | C(C=1C(O)=CC=CC1)(=O)O | C7H6O3
reactant | t-butyl N-(2-aminoethyl)carbamate | 14.5 mmol, 2.32 g | NCCNC(OC(C)(C)C)=O | C7H16N2O2
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | [2-(2-hydroxy-benzoylamino)-ethyl]-carbamic acid tert-butyl ester | 2.88 grams, 71% | C(C)(C)(C)OC(NCCNC(C1=C(C=CC=C1)O)=O)=O | C14H20N2O4
